US07662809B2
Step 2: Methyl 2-bromo-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate
1.6 eq of (Trimethylsilyl)diazomethane (2 M solution in hexanes) was added dropwise to a solution of 3-[2-bromo-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic acid in a mixture toluene:MeOH (7:3; 0.2 M) and the solution allowed to stir at RT for 1 h. Excess (Trimethylsilyl)diazomethane was quenched with acetic acid and then the solution was concentrated in vacuo. The crude was purified by flash chromatography (Biotage cartridge Si4OS, 1:9 EtOAc/PE) to afford the title compound in 63% yield (over two steps). MS (ES+) m/z 422 (M+H)+, m/z 424 (M+H)+

reactant | (Trimethylsilyl)diazomethane | 2 M, 1.6 eq | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-[2-bromo-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic acid | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)O | C19H22BrNO4
solvent | toluene MeOH | 0.2 M | C1(=CC=CC=C1)C.CO
product | Methyl 2-bromo-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | 63% yield | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OC | C20H24BrNO4
